********************************************************************************
**	Cree SiC Schottky Diode C3D Family Spice Model Library
**      v2.5
**	02/15/2018
********************************************************************************
**	Terms:
**	
**	By using this SPICE Model (a "Model") from Cree, Inc. ("Cree"), you on 
**	behalf of your organization (or you personally, if you are requesting the 
**	model for personal use) agree to the following conditions of its use:
**	
**	1. The Model, or any portion of the Model, is for your own use and may not 
**	be distributed outside your organization (or to any other person or company,
**	if you are acquiring the Model for personal use);
**	
**	2. You may use the Model only for the purpose of evaluating the performance 
**	of Cree products in proposed circuits;
**	
**	3. The Model is provided “AS IS”, and Cree disclaims any warranty either 
**	express or implied in connection with the Model, including but not limited 
**	to any warranty
**	
**	4. In no event, will Cree be liable for any damages arising from the use 
**	of the Model, regardless of the legal theory or any prior knowledge of Cree;
**	
**	5. Cree retains all copyrights and other intellectual property rights in 
**	the Model. 
**	
********************************************************************************
********************************************************************************
**	Notes:
**	1.  The model is designed to be accurate over the ranges presented in the
**	    corresponding datasheet typical characteristic curves.
**	2.  The model is valid over the 25C to 175C temperature range.
**	3.  Reverse leakage currents are modeled as a breakdown voltage at 250uA.
**	    No low current detail is provided.
**	4.  The surge response of the PiN structure is not included in this 
**          version.
**	5.  Recombination current is assumed to be zero.
**	6.  Currently, the model is electrical only. No thermal model is included.
**	7.  LT Spice users: please note that a LTSpice symbol library is also 
**	    available. Please refer to the file "Cree_C4D_CPW4_LTSPICE_Symbols.zip" 
**	    for further details.
**	8.  PSpice users: please note that a PSpice symbol library is also 
**	    available. Please refer to the file "Wolfspeed C3D package Schottky diode.OLB" 
**	    for further details.
**********************************************************************************
********************************************************************************
**	Release 2.0 notes
**	1.  Added all TO-247-3 packages
**	2.  Added 8A and 10A versions of TO-220-Isolated
**	3.  Added 4A TO-252 DPAK models
**	4.  All new models for C3D and CPW3 1700V bare die and TO-247-2  
**       
**	Release 2.1 notes
**	1.  New models for C3D16065A and C3D30065D
**
**	Release 2.2 notes
**	1.  New C3D12065A diode model
**
**	Release 2.3 notes
**	1.  Fixed reference error in C3D04060E and C3D04065E models
**
**	Release 2.4 notes
**	1.  New C3D 2A models for TO-220 and TO-252 packages
**	2.  New C3D TO-220F models
**
**	Release 2.5 notes
**	1.  New C3D 3A models for TO-220 and TO-252 packages
**	
********************************************************************************

********************************************************************************
**	Discrete Diodes
********************************************************************************
********************************************************************************
**	TO-220-2 package
********************************************************************************

.subckt C3D02060A A K Case
L_anode		A	AD	6.5n
D1		AD	Case	CPW30600S002B
L_cathode	K	Case	6.5n		
.ends

.subckt C3D03060A A K Case
L_anode		A	AD	6.5n
D1		AD	Case	CPW30600S003B
L_cathode	K	Case	6.5n
.ends

.subckt C3D04060A A K Case
L_anode		A	AD	6.5n
D1		AD	Case	CPW30600S004B
L_cathode	K	Case	6.5n		
.ends

.subckt C3D06060A A K Case
L_anode		A	AD	6.5n
D1		AD	Case	CPW20600S006B
L_cathode	K	Case	6.5n		
.ends

.subckt C3D08060A A K Case
L_anode		A	AD	6.5n
D1		AD	Case	CPW20600S008B
L_cathode	K	Case	6n		
.ends

.subckt C3D10060A A K Case
L_anode		A	AD	6.5n
D1		AD	Case	CPW20600S010B
L_cathode	K	Case	6.5n
.ends

.subckt C3D02065A A K Case
L_anode		A	AD	6.5n
D1		AD	Case	CPW30650S002B
L_cathode	K	Case	6.5n		
.ends

.subckt C3D03065A A K Case
L_anode		A	AD	6.5n
D1		AD	Case	CPW30650S003B
L_cathode	K	Case	6.5n		
.ends

.subckt C3D04065A A K Case
L_anode		A	AD	6.5n
D1		AD	Case	CPW30650S004B
L_cathode	K	Case	6.5n		
.ends

.subckt C3D06065A A K Case
L_anode		A	AD	6.5n
D1		AD	Case	CPW20650S006B
L_cathode	K	Case	6.5n		
.ends

.subckt C3D08065A A K Case
L_anode		A	AD	6.5n
D1		AD	Case	CPW20650S008B
L_cathode	K	Case	6n		
.ends

.subckt C3D10065A A K Case
L_anode		A	AD	6.5n
D1		AD	Case	CPW20650S010B
L_cathode	K	Case	6.5n
.ends

.subckt C3D12065A A K Case
L_anode		A	AD	6.5n
D1		AD	Case	CPW20650S012B
L_cathode	K	Case	6.5n
.ends

.subckt C3D16065A A K Case
L_anode		A	AD	6.5n
D1		AD	Case	CPW20650S016B
L_cathode	K	Case	6.5n
.ends

********************************************************************************
**	TO-252-2 package
********************************************************************************

.subckt C3D02060E A K Case
L_anode		A	AD	6n
D1		AD	Case	CPW30600S002B
L_cathode	K	Case	6n		
.ends

.subckt C3D03060E A K Case
L_anode		A	AD	6n
D1		AD	Case	CPW30600S003B
L_cathode	K	Case	6n		
.ends

.subckt C3D04060E A K Case
L_anode		A	AD	6n
D1		AD	Case	CPW30600S004B
L_cathode	K	Case	6n		
.ends

.subckt C3D02065E A K Case
L_anode		A	AD	6n
D1		AD	Case	CPW30650S002B
L_cathode	K	Case	6n		
.ends

.subckt C3D03065E A K Case
L_anode		A	AD	6n
D1		AD	Case	CPW30650S003B
L_cathode	K	Case	6n		
.ends

.subckt C3D04065E A K Case
L_anode		A	AD	6n
D1		AD	Case	CPW30650S004B
L_cathode	K	Case	6n		
.ends

.subckt C3D06065E A K Case
L_anode		A	AD	6n
D1		AD	Case	CPW20650S006B
L_cathode	K	Case	6n		
.ends

.subckt C3D08065E A K Case
L_anode		A	AD	6n
D1		AD	Case	CPW20650S008B
L_cathode	K	Case	6n		
.ends

.subckt C3D10065E A K Case
L_anode		A	AD	6n
D1		AD	Case	CPW20650S010B
L_cathode	K	Case	6n		
.ends


********************************************************************************
**	TO-220F FulPAK package
********************************************************************************

.subckt C3D02060F A K Case
L_anode		A	AD	6.5n
D1		AD	Case	CPW30600S002B
L_cathode	K	Case	6.5n		
.ends

.subckt C3D03060F A K Case
L_anode		A	AD	6.5n
D1		AD	Case	CPW30600S003B
L_cathode	K	Case	6.5n		
.ends

.subckt C3D04060F A K Case
L_anode		A	AD	6.5n
D1		AD	Case	CPW30600S004B
L_cathode	K	Case	6.5n		
.ends


.subckt C3D06060F A K Case
L_anode		A	AD	6.5n
D1		AD	Case	CPW20600S006B
L_cathode	K	Case	6.5n		
.ends


********************************************************************************
**	TO-220-Isolated package
********************************************************************************

.subckt C3D06065I A K
L_anode		A	AD	6.5n
D1		AD	KD	CPW20650S006B
L_cathode	K	KD	6.5n		
.ends

.subckt C3D08065I A K
L_anode		A	AD	6.5n
D1		AD	KD	CPW20650S008B
L_cathode	K	KD	6.5n		
.ends

.subckt C3D10065I A K
L_anode		A	AD	6.5n
D1		AD	KD	CPW20650S010B
L_cathode	K	KD	6.5n		
.ends


********************************************************************************
**	QFN package
********************************************************************************

.subckt C3D1P7060Q A K
L_anode		A	AD	1n
D1		AD	KD	QFN1P7A600V
L_cathode	K	KD	0.1n		
.ends


********************************************************************************
**	TO-247-3 package
********************************************************************************

.subckt C3D16060D A1 A2 K Case
L_anode1	A1	AD1	6.5n
D1		AD1	Case	CPW20600S008B
L_anode2	A2	AD2	6.5n
D2		AD2	Case	CPW20600S008B
L_cathode	K	Case	6.5n		
.ends

.subckt C3D16065D A1 A2 K Case
L_anode1	A1	AD1	6.5n
D1		AD1	Case	CPW20650S008B
L_anode2	A2	AD2	6.5n
D2		AD2	Case	CPW20650S008B
L_cathode	K	Case	6.5n		
.ends

.subckt C3D20060D A1 A2 K Case
L_anode1	A1	AD1	6.5n
D1		AD1	Case	CPW20600S010B
L_anode2	A2	AD2	6.5n
D2		AD2	Case	CPW20600S010B
L_cathode	K	Case	6.5n		
.ends

.subckt C3D20065D A1 A2 K Case
L_anode1	A1	AD1	6.5n
D1		AD1	Case	CPW20650S010B
L_anode2	A2	AD2	6.5n
D2		AD2	Case	CPW20650S010B
L_cathode	K	Case	6.5n		
.ends

.subckt C3D30065D A1 A2 K Case
L_anode1	A1	AD1	6.5n
D1		AD1	Case	CPW20650S016B
L_anode2	A2	AD2	6.5n
D2		AD2	Case	CPW20650S016B
L_cathode	K	Case	6.5n		
.ends


********************************************************************************
**	TO-247-2
********************************************************************************

.subckt C3D10170H A K Case
L_anode		A	AD	6.5n
D1		AD	Case	CPW31700S010B
L_cathode	K	Case	6.5n		
.ends

.subckt C3D25170H A K Case
L_anode		A	AD	6.5n
D1		AD	Case	CPW31700S025B
L_cathode	K	Case	6.5n		
.ends

********************************************************************************

********************************************************************************
********************************************************************************


********************************************************************************
**	Die Models
********************************************************************************


.model CPW30600S002B			
+	d(		
+	level	=	1
+	Is	=	9.45179E-15
+	N	=	1.153344223
+	Eg	=	1.328273985
+	xti	=	0.12
+	Rs	=	0.21
+	trs1	=	0.002966895
+	trs2	=	3.46848E-05
+	Cjo	=	1.90423E-10
+	VJ	=	0.888038868
+	M	=	0.569393913
+	bv	=	1273
+	tbv1	=	-0.000900626
+	tbv2	=	-6.5191E-06
+	tt	=	0
+	)		


.model CPW30600S003B			
+	d(		
+	level	=	1
+	Is	=	6.85882E-15
+	N	=	1.123400507
+	Eg	=	1.294339743
+	xti	=	0.1
+	Rs	=	0.166299409
+	trs1	=	0.002670023
+	trs2	=	2.13345E-05
+	Cjo	=	1.77262E-10
+	VJ	=	0.864198191
+	M	=	0.460791939
+	bv	=	1130
+	tbv1	=	0.000288775
+	tbv2	=	-1.34141E-06
+	tt	=	0
+	)		


.model CPW30600S004B			
+	d(		
+	level	=	1
+	Is	=	2.49796E-15
+	N	=	1.126333805
+	Eg	=	1.2888239
+	xti	=	0.1
+	Rs	=	0.088875806
+	trs1	=	0.004662561
+	trs2	=	2.83281E-05
+	Cjo	=	2.48015E-10
+	VJ	=	0.868577131
+	M	=	0.470969871
+	bv	=	1080.614854
+	tbv1	=	-0.000242611
+	tbv2	=	-2.51745E-06
+	tt	=	0
+	)		
		
		

.model CPW20600S006B			
+	d(		
+	level	=	1
+	Is	=	1.17048E-14
+	N	=	1.130932999
+	Eg	=	1.262228644
+	xti	=	0.1
+	Rs	=	0.08849829
+	trs1	=	0.004535867
+	trs2	=	2.42431E-05
+	Cjo	=	3.18535E-10
+	VJ	=	0.872697641
+	M	=	0.443247191
+	bv	=	1372.496255
+	tbv1	=	-0.000247626
+	tbv2	=	-1.7191E-06
+	tt	=	0
+	)		
	
		

.model CPW20600S008B			
+	d(		
+	level	=	1
+	Is	=	9.45179E-15
+	N	=	1.093344223
+	Eg	=	1.249733985
+	xti	=	0.1
+	Rs	=	0.068225853
+	trs1	=	0.004466895
+	trs2	=	2.26848E-05
+	Cjo	=	4.18421E-10
+	VJ	=	1.060388679
+	M	=	0.458393913
+	bv	=	1312.960068
+	tbv1	=	-0.000247626
+	tbv2	=	-1.7191E-06
+	tt	=	0
+	)		
	


.model CPW20600S010B			
+	d(		
+	level	=	1
+	Is	=	4.53841E-15
+	N	=	1.04536676
+	Eg	=	1.285830992
+	xti	=	0.1
+	Rs	=	0.056127803
+	trs1	=	0.00470343
+	trs2	=	1.99518E-05
+	Cjo	=	4.88E-10
+	VJ	=	1.093475384
+	M	=	0.459244507
+	bv	=	1235.559073
+	tbv1	=	-0.000265384
+	tbv2	=	-1.9975E-06
+	tt	=	0
+	)		
	

.model CPW30650S002B			
+	d(		
+	level	=	1
+	Is	=	9.45179E-15
+	N	=	1.153344223
+	Eg	=	1.328273985
+	xti	=	0.12
+	Rs	=	0.21
+	trs1	=	0.002966895
+	trs2	=	3.46848E-05
+	Cjo	=	1.90423E-10
+	VJ	=	0.888038868
+	M	=	0.569393913
+	bv	=	1273
+	tbv1	=	-0.000900626
+	tbv2	=	-6.5191E-06
+	tt	=	0
+	)		
	
.model CPW30650S003B			
+	d(		
+	level	=	1
+	Is	=	6.85882E-15
+	N	=	1.123400507
+	Eg	=	1.294339743
+	xti	=	0.1
+	Rs	=	0.166299409
+	trs1	=	0.002670023
+	trs2	=	2.13345E-05
+	Cjo	=	1.77262E-10
+	VJ	=	0.864198191
+	M	=	0.460791939
+	bv	=	1130
+	tbv1	=	0.000288775
+	tbv2	=	-1.34141E-06
+	tt	=	0
+	)


.model CPW30650S004B			
+	d(		
+	level	=	1
+	Is	=	2.49796E-15
+	N	=	1.126333805
+	Eg	=	1.2888239
+	xti	=	0.1
+	Rs	=	0.088875806
+	trs1	=	0.004662561
+	trs2	=	2.83281E-05
+	Cjo	=	2.48015E-10
+	VJ	=	0.868577131
+	M	=	0.470969871
+	bv	=	1080.614854
+	tbv1	=	-0.000242611
+	tbv2	=	-2.51745E-06
+	tt	=	0
+	)		
		
		

.model CPW20650S006B			
+	d(		
+	level	=	1
+	Is	=	1.17048E-14
+	N	=	1.130932999
+	Eg	=	1.262228644
+	xti	=	0.1
+	Rs	=	0.08849829
+	trs1	=	0.004535867
+	trs2	=	2.42431E-05
+	Cjo	=	3.18535E-10
+	VJ	=	0.872697641
+	M	=	0.443247191
+	bv	=	1372.496255
+	tbv1	=	-0.000247626
+	tbv2	=	-1.7191E-06
+	tt	=	0
+	)		
	
		

.model CPW20650S008B			
+	d(		
+	level	=	1
+	Is	=	9.45179E-15
+	N	=	1.093344223
+	Eg	=	1.249733985
+	xti	=	0.1
+	Rs	=	0.068225853
+	trs1	=	0.004466895
+	trs2	=	2.26848E-05
+	Cjo	=	4.18421E-10
+	VJ	=	1.060388679
+	M	=	0.458393913
+	bv	=	1312.960068
+	tbv1	=	-0.000247626
+	tbv2	=	-1.7191E-06
+	tt	=	0
+	)		
	


.model CPW20650S010B			
+	d(		
+	level	=	1
+	Is	=	4.53841E-15
+	N	=	1.04536676
+	Eg	=	1.285830992
+	xti	=	0.1
+	Rs	=	0.056127803
+	trs1	=	0.00470343
+	trs2	=	1.99518E-05
+	Cjo	=	4.88E-10
+	VJ	=	1.093475384
+	M	=	0.459244507
+	bv	=	1235.559073
+	tbv1	=	-0.000265384
+	tbv2	=	-1.9975E-06
+	tt	=	0
+	)

.model CPW20650S012B			
+	d(		
+	level	=	1
+	Is	=	5.36814E-15
+	N	=	1.09686957
+	Eg	=	1.265522806
+	xti	=	0.1
+	Rs	=	0.044547876
+	trs1	=	0.004307526
+	trs2	=	1.85273E-05
+	Cjo	=	6.7427E-10
+	VJ	=	1.827589257
+	M	=	0.551960331
+	bv	=	1133
+	tbv1	=	0.000274072
+	tbv2	=	-4.64519E-07
+	tt	=	0
+	)		


.model CPW20650S016B			
+	d(		
+	level	=	1
+	Is	=	7.53014E-15
+	N	=	1.057577435
+	Eg	=	1.203564096
+	xti	=	0.1
+	Rs	=	0.034727776
+	trs1	=	0.004554701
+	trs2	=	2.17632E-05
+	Cjo	=	9.0898E-10
+	VJ	=	1.36051163
+	M	=	0.497010799
+	bv	=	1183
+	tbv1	=	0.000133469
+	tbv2	=	8.89869E-08
+	tt	=	0
+	)

	

.model QFN1P7A600V
+	d(		
+	level	=	1
+	Is	=	0.000184558
+	N	=	4.862030153
+	Eg	=	1.13186802
+	xti	=	0.1
+	Rs	=	0.151389661
+	trs1	=	0.000133359
+	trs2	=	3.54177E-05
+	Cjo	=	8.72434E-11
+	VJ	=	1.019067917
+	M	=	0.465347201
+	bv	=	1144.142814
+	tbv1	=	-0.000358907
+	tbv2	=	-1.9418E-06
+	tt	=	0
+	)		



.model CPW31700S010B			
+	d(		
+	level	=	1
+	Is	=	9.45179E-15
+	N	=	1.083344223
+	Eg	=	1.238273985
+	xti	=	0.1
+	Rs	=	0.075225853
+	trs1	=	0.006466895
+	trs2	=	4.76848E-05
+	Cjo	=	8.68421E-10
+	VJ	=	1.088038868
+	M	=	0.458393913
+	bv	=	3332.332865
+	tbv1	=	-0.000657626
+	tbv2	=	-6.2191E-06
+	tt	=	0
+	)		


.model CPW31700S025B						
+	d(		
+	level	=	1
+	Is	=	9.45179E-15
+	N	=	1.053344223
+	Eg	=	1.228273985
+	xti	=	0.1
+	Rs	=	0.032
+	trs1	=	0.006966895
+	trs2	=	4.76848E-05
+	Cjo	=	2.10012E-09
+	VJ	=	1.088038868
+	M	=	0.459393913
+	bv	=	3162.765329
+	tbv1	=	-0.000540626
+	tbv2	=	-2.0191E-06
+	tt	=	0
+	)		
       



